* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1376-5.asc
* Generated by LTspice 24.1.9 for Windows.
D2 0 N002 MBRS340
D1 OUT N001 1N4148
C5 OUT 0 1µ
C3 N001 N002 .1µ
C2 OUT 0 100µ Rser=0.05
L1 N002 OUT 5µ Rser=0.02 Rpar=5000
V1 IN 0 10
C4 N004 0 3.3n
X§U1 N001 IN N002 OUT N003 0 OUT N004 LT1376 top=5.36K bot=4.99K
R1 OUT 0 10
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
.lib LT1376.sub
.backanno
.end
